US06262288B1
Preparation of methyl (R,Z)-2-(2-pentenyl)-2-cyclopenten-1-yl malonate
A mixture of (Z)-2-(2-pentenyl)-2-cyclopenten-1-ol (17.8 g; 117 mmol), dimethyl malonate (17.8 g; 135 mmol), ground KHCO3 (0.58 g; 5.8 mmol) and Novozym 435® (immobilized Candida antarctica from Novo Nordisk; 1.80 g) was gently swirled in a 100 ml flask connected to a Büchi rotavapor at 40° C. and 10 hPa. After 80 min., the reaction mixture was filtered, washed (sat. aq. NaHCO3, sat. aq. NaCl), dried (Na2SO4) and concentrated (30.8 g). Bulb-to-bulb distillation afforded 15.5 g of volatiles (oven temp. 70° C./10-0.1 hPa) and ca. 11.14 g (95% pure, 36%, 97% ee) of the desired product which is isolated at an oven temperature of 80-130° C./0.06 hPa.

reactant | (Z)-2-(2-pentenyl)-2-cyclopenten-1-ol | 117 mmol, 17.8 g | C(\C=C/CC)C=1C(CCC1)O | C10H16O
reactant | dimethyl malonate | 135 mmol, 17.8 g | C(CC(=O)OC)(=O)OC | C5H8O4
product | methyl (R,Z)-2-(2-pentenyl)-2-cyclopenten-1-yl malonate | C(CC(=O)O[C@H]1C(=CCC1)C\C=C/CC)(=O)OC | C14H20O4
